US07202240B2
General Procedure for 1-(2-cyanophenyl)pyrrole
A mixture of 2-aminobenzonitrile (0.01 mole), 2,5-dimethoxytetrahydrofuran (0.01 mole) and glacial acetic acid (10 ml) was heated under reflux for 30 minutes (TLC check). The acetic acid and ethyl acetate formed was evaporated off and the residue was purified using flash chromatography on silica gel (eluent: CH2Cl2). The pure fraction was recrystallized from the appropriate solvent (mostly ethanol).

reactant | 2-aminobenzonitrile | 0.01 mole | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | 2,5-dimethoxytetrahydrofuran | 0.01 mole | COC1OC(CC1)OC | C6H12O3
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-cyanophenyl)pyrrole | C(#N)C1=C(C=CC=C1)N1C=CC=C1 | C11H8N2
